US04606860
A mixture of 0.68 g (0.010 mole) of methylamine hydrochloride and 5 ml of ethanol, which was neutralized with 1.0 g (0.010 mole) of triethanolamine, was added to a mixture of 1.2 g (0.005 mole) of 3-carboxymethyl-5ethoxymethylidenerhodanine and 10 ml of ethanol. The reaction was conducted at a temperature of 50° to 60° C. for 1 hour. The reaction mixture was concentrated and the resulting residue was recrystallized from ethanol to give 1.0 g of 3-carboxymethyl-5-methylaminomethylidenerhodanine methylamine salt (yield: 79.2 %).

reactant | methylamine hydrochloride | 0.010 mole, 0.68 g | Cl.CN
reactant | triethanolamine | 0.010 mole, 1.0 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | 3-carboxymethyl-5ethoxymethylidenerhodanine | 0.005 mole, 1.2 g | C(=O)(O)CN1C(SC(C1=O)=COCC)=S | C8H9NO4S2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-carboxymethyl-5-methylaminomethylidenerhodanine methylamine salt | 1.0 g, yield: 79.2 % | CN.C(=O)(O)CN1C(SC(C1=O)=CNC)=S | InChI=1S/C7H8N2O3S2.CH5N/c1-8-2-4-6(12)9(3-5(10)11)7(13)14-4;1-2/h2,8H,3H2,1H3,(H,10,11);2H2,1H3
